US05321037
2-(3-Chloro-2-hydroxypropyl)-4-methyl-5-phenyl-3-isoxazolone
A mixture of 6.00 g (34.2 mmoles) of 3-hydroxy-4-methyl-5-phenylisoxazole and 6.33 g (68.4 mmoles) of epichlorohydrin was stirred, whilst heating at 75° C., for 5 hours. At the end of this time, the excess epichlorohydrin was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel, using a 2:1 by volume mixture of cyclohexane and ethyl acetate as eluent, to give 6.51 g (yield 71.1%) of the title compound as a colorless powder, melting at 82°-83° C.

reactant | 3-hydroxy-4-methyl-5-phenylisoxazole | 34.2 mmoles, 6.00 g | OC1=NOC(=C1C)C1=CC=CC=C1 | C10H9NO2
reactant | epichlorohydrin | 68.4 mmoles, 6.33 g | C(Cl)C1CO1 | C3H5ClO
product | 2-(3-Chloro-2-hydroxypropyl)-4-methyl-5-phenyl-3-isoxazolone | 6.51 g, yield 71.1% | ClCC(CN1OC(=C(C1=O)C)C1=CC=CC=C1)O | C13H14ClNO3
